US08936813B2
Solution 1: Raffinose/Leucine
Solids Content (weight percent): 5.5% (˜91% Raffinose, ˜9% Leucine)

reactant | Raffinose | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O | C18H32O16
reactant | Leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
product | Raffinose Leucine | C([C@@H]1[C@@H]([C@@H]([C@H]([C@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@H](O2)O[C@]3([C@H]([C@@H]([C@H](O3)CO)O)O)CO)O)O)O)O)O)O)O.N[C@@H](CC(C)C)C(=O)O | InChI=1S/C18H32O16.C6H13NO2/c19-1-5-8(22)11(25)13(27)16(31-5)30-3-7-9(23)12(26)14(28)17(32-7)34-18(4-21)15(29)10(24)6(2-20)33-18;1-4(2)3-5(7)6(8)9/h5-17,19-29H,1-4H2;4-5H,3,7H2,1-2H3,(H,8,9)/t5-,6-,7-,8+,9-,10-,11+,12+,13-,14-,15+,16+,17-,18+;5-/m10/s1
